US06762320B2
a) 1-(3-Fluoro-benzyloxy)-2-methyl-4-nitro-benzene
Prepared in analogy to example 8 from 2-methyl-4-nitrophenol and 3-fluoro-benzylbromide. Colorless oil. Yield=62%. MS: m/e=261.1 (M+).

reactant | 2-methyl-4-nitrophenol | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | 3-fluoro-benzylbromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 1-(3-Fluoro-benzyloxy)-2-methyl-4-nitro-benzene | Yield=62% | FC=1C=C(COC2=C(C=C(C=C2)[N+](=O)[O-])C)C=CC1 | C14H12FNO3
